US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
Thioacetic acid S-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl] ester 776 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline in 16 mL of methylene chloride was treated with 155 μL of thioacetic acid and 303 μL of triethylamine to give 100 mg of the title compound as a foam.

reactant | Thioacetic acid S-[6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl] ester | 776 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CSC(C)=O | C21H23NO2S
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | thioacetic acid | 155 μL | C(C)(=S)O | C2H4OS
reactant | triethylamine | 303 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 100 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
